US06140333
4-Amino-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-Phenylacetyl}piperidine monohydrochloride
In 2 ml of 10% HCl-methanol, 84 mg of 4-t-butoxycarbonylamino-1-{(2R)-2-((1R)-3, 3-difluorocyclopentyl)-2-hydroxy-2-phenylacetyl}piperidine was dissolved, and stirred for 3 hours at room temperature. The solvent was distilled off under reduced pressure, and 60 mg of the title compound was obtained as a colorless solid by recrystallizing the resulting residue from ethyl acetate/hexane.

reactant | 4-t-butoxycarbonylamino-1-{(2R)-2-((1R)-3, 3-difluorocyclopentyl)-2-hydroxy-2-phenylacetyl}piperidine | 84 mg | C(C)(C)(C)OC(=O)NC1CCN(CC1)C([C@@](C1=CC=CC=C1)(O)[C@H]1CC(CC1)(F)F)=O | C23H32F2N2O4
reactant | HCl methanol | 2 ml | Cl.CO
product | 4-Amino-1-{(2R)-2-((1R)-3,3-difluorocyclopentyl)-2-hydroxy-2-Phenylacetyl}piperidine monohydrochloride | 60 mg | Cl.NC1CCN(CC1)C([C@@](C1=CC=CC=C1)(O)[C@H]1CC(CC1)(F)F)=O | InChI=1S/C18H24F2N2O2.ClH/c19-17(20)9-6-14(12-17)18(24,13-4-2-1-3-5-13)16(23)22-10-7-15(21)8-11-22;/h1-5,14-15,24H,6-12,21H2;1H/t14-,18+;/m1./s1
